US09371285B2
Into a 2 L 3-necked round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was placed a solution of pyridin-4-ylboronic acid (30 g, 244 mmol, 1 equiv) in 2-propanol/water (800/40 mL), Na2CO3 (77.3 g, 729 mmol, 3 equiv), Pd(OAc)2 (5.46 g, 24.3 mmol, 0.1 equiv), PPh3 (12.75 g, 48.7 mmol, 0.2 equiv) and 3-bromobenzaldehyde (45 g, 243 mmol, 1 equiv). The mixture was stirred for 48 h at 80° C. in an oil bath. Then the solids were filtered out and the filtrate was concentrated under vacuum. The residue was purified by column chromatography on silica gel (eluting with 1:1 ethyl acetate/petroleum ether) to give 30 g of 3-(pyridin-4-yl)benzaldehyde as orange oil.

reactant | pyridin-4-ylboronic acid | 244 mmol, 30 g, 1 equiv | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 729 mmol, 77.3 g, 3 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 48.7 mmol, 12.75 g, 0.2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-bromobenzaldehyde | 243 mmol, 45 g, 1 equiv | BrC=1C=C(C=O)C=CC1 | C7H5BrO
solvent | 2-propanol water | 40 mL | CC(C)O.O
catalyst | Pd(OAc)2 | 24.3 mmol, 5.46 g, 0.1 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(pyridin-4-yl)benzaldehyde | 30 g | N1=CC=C(C=C1)C=1C=C(C=O)C=CC1 | C12H9NO
